US05679791
Preparation of 1-(5-Acetamido-2-chloro-4-fluorophenyl)-3-(2-propynyl)urea
A solution of 5'-amino-4'-chloro-2'-fluoroacetanilide (11.25 g, 55.6 mmol), and triethylamine (7.70 mL, 55.6 mmol) in tetrahydrofuran is added dropwise to a stirred solution of phenylchloroformate (8.70 mL, 69.4 mmol) in tetrahydrofuran while maintaining the reaction mixture temperature at 25°-30° C. After the addition is complete, the rection mixture is stirred at room temperature for 75 minutes, and poured into ethyl acetate. The organic mixture is washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a tan solid. A solution of the solid in tetrahydrofuran is treated with propargylamine (9.52 mL, 139 mmol), refluxed for 1 hour, and poured into water. The aqueous mixture is filtered to obtain a solid which is washed sequentially with water, 0.5N hydrochloric acid and water, and dried overnight to give the title product as a beige solid.

reactant | 5'-amino-4'-chloro-2'-fluoroacetanilide | 55.6 mmol, 11.25 g | NC=1C(=CC(=C(NC(C)=O)C1)F)Cl | C8H8ClFN2O
reactant | triethylamine | 55.6 mmol, 7.70 mL | C(C)N(CC)CC | C6H15N
reactant | phenylchloroformate | 69.4 mmol, 8.70 mL | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | propargylamine | 139 mmol, 9.52 mL | C(C#C)N | C3H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Acetamido-2-chloro-4-fluorophenyl)-3-(2-propynyl)urea | C(C)(=O)NC=1C(=CC(=C(C1)NC(=O)NCC#C)Cl)F | C12H11ClFN3O2
